US07507740B2
(iv) Production of 6-(aminomethyl)-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride
To a solution of tert-butyl[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]methylcarbamate (500 mg) in tetrahydrofuran (12 mL) was added 2N hydrochloric acid (6.0 mL) at room temperature. The mixture was stirred at 60° C. for 2 hrs, ethanol was added to the reaction system and the mixture was concentrated under reduced pressure. The resultant crystals were collected by filtration and washed with diisopropyl ether to give the title compound (481.4 mg) as pale-yellow powder crystals.

reactant | tert-butyl[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]methylcarbamate | 500 mg | C(C)(C)(C)OC(NCC1=CC=2N=CN=C(C2N1)NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl)=O | C25H25ClFN5O3
reactant | hydrochloric acid | 2N, 6.0 mL | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 6-(aminomethyl)-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride | 481.4 mg | Cl.Cl.NCC1=CC=2N=CN=C(C2N1)NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl | InChI=1S/C20H17ClFN5O.2ClH/c21-16-7-14(4-5-18(16)28-10-12-2-1-3-13(22)6-12)27-20-19-17(24-11-25-20)8-15(9-23)26-19;;/h1-8,11,26H,9-10,23H2,(H,24,25,27);2*1H
